2121-09-05 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-9-4**] 09:45 AM
 EKG - At [**2121-9-4**] 06:00 PM
   - given a third unit of blood with lasix 10mg IV
   - per OSH records during admission for Hip repair
   [**7-31**] 34.7
   [**8-9**] 35.5
   [**8-9**] 27.5 - 3 units of RBCs
   [**8-11**] 23.8 - 2 units of RBCs
   [**8-12**] 29.9
   [**8-13**] 30.3
   [**8-14**] 30.0
   Spoke to pt's hematologist, no hx of anemia.
   Had a dark brown stool, guaiac positive
   CT scan with enlarge gallbladder, lots of stool, ovarian mass (pt
   states she has no hx of ovarian issues), and PNA
   CXR with retrocardiac infiltrate, cipro changed to levo
   GI recommened PPI [**Hospital1 **], will scope pt after cardiac clearance and
   improved respiratory status, will need MAC for EGD, and stopped iron
   Ccardiology was consulted for clearance, pt had trop of 0.17, 0.10, and
   0.11, echocardiogram revealed subtle hypokinesis of the mid
   inferolateral wall but no significant wall motion abnormalities, cards
   stated pt should be able to undergo EGD/colonsocpy without further
   cardoilogy testing, can start BB if needed for BP control
   Wound care orders placed
   Retic index 2.04 which is appropriate response for blood loss
   Had polys removed on colonscopy [**6-2**] yrs ago
   History obtained from Patient, Family / [**Hospital 380**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 380**] Medical
   [**Name2 (NI) 5750**]s
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-4**] 11:30 AM
   Pantoprazole (Protonix) - [**2121-9-4**] 04:55 PM
   Furosemide (Lasix) - [**2121-9-4**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-5**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 95 (78 - 95) bpm
   BP: 151/82(98) {95/44(56) - 151/82(98)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,863 mL
                                                                    622 mL
   PO:
             TF:
   IVF:
                                                                    913 mL
                                                                    622 mL
   Blood products:
                                                                    950 mL
   Total out:
                                                                  2,662 mL
                                                                    310 mL
   Urine:
                                                                  1,362 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -799 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   651 K/uL
   9.1 g/dL
   109 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   21 mg/dL
   110 mEq/L
   146 mEq/L
   28.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2121-9-4**]  10:29 AM
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
   WBC
   10.7
   11.0
   10.1
   10.3
   Hct
   25.5
   25.1
   28.8
   28.5
   Plt
   [**Telephone/Fax (3) 8217**]51
   Cr
   0.5
   0.5
   0.5
   0.4
   TropT
   0.10
   0.11
   Glucose
   133
   136
   103
   109
   Other labs: PT / PTT / INR:14.3/27.0/1.2, CK / CKMB /
   Troponin-T:36//0.11, Fibrinogen:688 mg/dL, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Urine Cx: pending
   Blood cx: pending
   CT ABD/PELVIS wet read
   1. Bibasilar areas of consolidation are concerning for superimposed
   infection.
   2. A non-relaxed gallbladder containing stones, however, there is no
   pericholecystic fluid or peri-gallbladder fat stranding, however, in
   the
   appropriate clinical setting cholecystitis may be present.
   3. Complex appearing right adnexal mass for which a pelvic ultrasound
   on a
   non-emergent basis is recommended.
   4. Hypodensity in the spleen, which may represent a hemangioma, abscess
   or
   metastasis but is not fully assessed. Would recommend further
   evaluation with
   contrast-enhanced CT or abdominal ultrasound.
   5. Extensive atherosclerotic vascular calcifications with fem-fem
   bypass
   graft.
   6. No retroperitoneal hemorrhage or other hematoma.
   ECHO:
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thicknesses and cavity size are normal. There is mild
   regional left ventricular systolic dysfunction with mild inferolateral
   hypokinesis. The remaining segments contract normally (LVEF = 50%).
   Transmitral Doppler and tissue velocity imaging are consistent with
   Grade I (mild) LV diastolic dysfunction. The right ventricular cavity
   is mildly dilated with mild global free wall hypokinesis. The ascending
   aorta is mildly dilated. The aortic valve leaflets (3) are mildly
   thickened. The mitral valve leaflets are mildly thickened. Mild (1+)
   mitral regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. There is mild pulmonary artery systolic hypertension. There
   is no pericardial effusion.
   IMPRESSION: Mild regional left ventricular systolic dysfunction, c/w
   CAD. Mild right ventricular systolic dysfunction. Mild mitral
   regurgitation. Mild pulmonary hypertension.
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DYSPNEA (SHORTNESS OF BREATH)
   A/P: 85 yo W with PMH of HTN, COPD, thrombocytosis presents with SOB,
   fever, UTI and anemia.
   PNA/COPD: seen on CXR in the retrocardiac area. Worse resp status since
   transfusions. Now on 4 liters of oxygen.
   - will change abx to vanco and cefepime for HAP
   - Incentive spirometry
   - Q4H standing nebs
   - Q2H PRN  nebs
   - musinex
   - solumedrol 20mg Q8H
   - PRN lasix with transfusions (responds to 10mg IV)
   Macrocytic anemia/ GI bleed: HCT with appropriate bump to transfusion.
   Retic index with appropriate bone marrow response for low HCT.  B12,
   folate normal. GI consulted, recommended cards clearance prior to
   scope. Cards felt pt able to tolerate procedure. Received total of 3U
   PRBCs so far. However, resp status too unstable for EGD for now
   - monitor [**Hospital1 **] HCT
   - Type and cross with 2 large bore IVs
   - follow up GI recs
   - IV PPI [**Hospital1 **]
   - Await EGD until resp status is more stable
   - holding outpt iron supplementation
   - consider advancing diet per GI recs
   Urinary tract infection: + UA with + nitrites/LE. No urine culture
   prior to abx. Urine cx sent here. No evidence of obstruction on wet
   read of CT
   - broader abx starting today for PNA and will also cover UTI
   - f/u urine cultures
   - monitor fever curve and wbc count
   Thrombocytosis: Known process. Currently on treatment with hydroxyurea
   - monitor plt count, if less than 600 can hold hydroxyurea
   Cardiac: + Tn. TW inversion in precordial leads x 3 EKGs, no prior to
   compare. However changes not dynamic, no evolution and w/o chest pain
   on exam. [**Month (only) 11**] have had prior event in setting of procedure or blood
   loss. No heparinization given likely demand ischemia and concern for
   acute blood loss. Cardiolgy evaluated pt and felt it was likely demand
   related and should not prervent her GI workup.
   - fasting lipids for risk reduction
   - will start perioperative BB low dose, will up titirate
   - holding home verapamil for now (was 120mg TID)
   - will start statin
   .
   Hypernatremia: Free water deficit ~ 1L. Sodium slowly trending down to
   146. Likely secondary to dehydration.
   - monitor Na, [**Hospital1 **]
   - continue IVFs
   .
   Constipation: Likely source of decreased PO and anorexia. Had guaiac
   positive dark brown stool yesterday
   - aggressive bowel regimen
   .
   Glaucoma: continue travaprost
   .
   FEN: PRBCS, replete electrolytes PRN, NPO overnight, will ask GI about
   diet
   .
   PPX: pneumoboots- hold lovenox; bowel regimen
   .
   ACCESS: 2 PIVs (18g and 20g)
   .
   CONTACT: [**Name (NI) **], [**Name (NI) 8190**] (HCP) cell: [**Telephone/Fax (1) 8191**]
   .
   CODE: DNR/DNI
   .
   DIPSO: ICU For now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-4**] 03:30 AM
   20 Gauge - [**2121-9-4**] 03:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU for now

2121-09-05 12:17:00 Physician Attending Progress Note
Chief Complaint: profound anemia, LLL pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Echo with mild inferior hypokinesis, EF 50%, grade I LV dyfunction,
   mild RV freewall hypokinesis, mild pulmonary arterial hypertension.
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-9-4**] 05:50 PM
   Pantoprazole (Protonix) - [**2121-9-5**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2121-9-5**] 10:00 AM
   Other medications:
   senna, colace, advair, heparin s/c, atrovent q6, levofloxacin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-5**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.1
   HR: 97 (78 - 97) bpm
   BP: 133/65(81) {95/44(56) - 151/82(98)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,863 mL
                                                                    882 mL
   PO:
             TF:
   IVF:
                                                                    913 mL
                                                                    882 mL
   Blood products:
                                                                    950 mL
   Total out:
                                                                  2,662 mL
                                                                    570 mL
   Urine:
                                                                  1,362 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -799 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 4L
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   651 K/uL
   109 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   21 mg/dL
   110 mEq/L
   146 mEq/L
   28.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2121-9-4**]  10:29 AM
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
   WBC
   10.7
   11.0
   10.1
   10.3
   Hct
   25.5
   25.1
   28.8
   28.5
   Plt
   [**Telephone/Fax (3) 8217**]51
   Cr
   0.5
   0.5
   0.5
   0.4
   TropT
   0.10
   0.11
   Glucose
   133
   136
   103
   109
   Other labs: PT / PTT / INR:14.3/27.0/1.2, CK / CKMB /
   Troponin-T:36//0.11, Fibrinogen:688 mg/dL, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR evidence for pulmonary vascular congestion. LL infiltrate.
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): hct stabilized, EGD
   +/- [**Last Name (un) **] when stable from respiratory standpoint.
 DYSPNEA (SHORTNESS OF BREATH): pneumonia + COPD exacerbation + volume
   overload from likely recent MI. Broaden antibiotic coverage to
   Vanco/cefepime, start solumedrol 20 q8 for COPD exacerbation, diurese
   gently for goal -500cc. Continue standing nebulizers.
 CAD: Start bblocker, hold off on asa for now given GI bleed. Start
   statin.
Ovarian mass:  ultrasound down the line when improved from respiratory
   standpoint.
   ICU Care
   Nutrition:
   Comments: advance diet if ok with Gi and if prelim nurisng swallowing
   assessment is wnl.
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-4**] 03:30 AM
   20 Gauge - [**2121-9-4**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2121-09-06 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2121-9-5**] 09:00 AM
 BLOOD CULTURED - At [**2121-9-5**] 09:00 AM
 URINE CULTURE - At [**2121-9-5**] 09:00 AM
   - hct stable
   - had BM
   - possible c/o in am
   - vanco changed to q24 per pharmacy rec given elderly and hard to calc
   true renal fx
   - put in SW c/s - nursing concerned she is depressed
   - ? aspirating - coughing when eating, ordered S/Sw c/s
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-5**] 08:41 PM
   Cefipime - [**2121-9-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-5**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2121-9-5**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-6**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 88 (81 - 105) bpm
   BP: 131/63(79) {107/53(68) - 151/82(98)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,789 mL
                                                                    851 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,429 mL
                                                                    731 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    160 mL
   Urine:
                                                                    945 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    844 mL
                                                                    691 mL
   Respiratory support
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   533 K/uL
   8.5 g/dL
   92 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   16 mg/dL
   111 mEq/L
   146 mEq/L
   27.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2121-9-4**]  10:29 AM
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
                             [**2121-9-5**]  03:25 PM
                             [**2121-9-5**]  11:08 PM
                             [**2121-9-6**]  04:23 AM
   WBC
   10.7
   11.0
   10.1
   10.3
   10.3
   Hct
   25.5
   25.1
   28.8
   28.5
   30.1
   27.3
   27.0
   Plt
   [**Telephone/Fax (3) 8217**]51
   533
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   TropT
   0.10
   0.11
   Glucose
   133
   136
   103
   109
   92
   Other labs: PT / PTT / INR:13.6/28.9/1.2, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:15/20, Alk Phos / T Bili:102/0.6,
   Fibrinogen:688 mg/dL, LDH:325 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
URINE CULTURE (Preliminary):
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
   Blood Culture: NGTD
   Assessment and Plan
 DEPRESSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DYSPNEA (SHORTNESS OF BREATH)
   A/P: 85 yo W with PMH of HTN, COPD, thrombocytosis presents with SOB,
   fever, UTI and anemia.
   PNA/COPD: seen on CXR in the retrocardiac area. Worse resp status since
   transfusions.  No fevers overnight and no elevation in WBC count.
   - will change abx to vanco and cefepime for HAP
   - Incentive spirometry
   - Q4H standing nebs
   - Q2H PRN  nebs
   - mucinex
   - solumedrol 20mg Q8H
   - PRN lasix with transfusions (responds to 10mg IV)
   Macrocytic anemia/ GI bleed: HCT with appropriate bump to transfusion.
   Retic index with appropriate bone marrow response for low HCT.  B12,
   folate normal. GI consulted, recommended cards clearance prior to
   scope. Cards felt pt able to tolerate procedure. Received total of 3U
   PRBCs so far. However, resp status too unstable for EGD for now. No
   dark stools/melena.  HCTs stable overnight
   - monitor [**Hospital1 **] HCT
   - Type and cross with 2 large bore IVs
   - follow up GI recs
   - IV PPI [**Hospital1 **]
   - Await EGD until resp status is more stable
   - holding outpt iron supplementation
   - consider advancing diet per GI recs
   Urinary tract infection: + UA with + nitrites/LE. No urine culture
   prior to abx. Urine cx sent here. Now growing E. coli No evidence of
   obstruction on wet read of CT.
   - broader abx starting today for PNA and will also cover UTI
   - f/u urine cultures
   - monitor fever curve and wbc count
   Thrombocytosis: Known process. Currently on treatment with hydroxyurea
   - monitor plt count, if less than 600 can hold hydroxyurea
   Cardiac: + Tn. TW inversion in precordial leads x 3 EKGs, no prior to
   compare. However changes not dynamic, no evolution and w/o chest pain
   on exam. [**Month (only) 11**] have had prior event in setting of procedure or blood
   loss. No heparinization given likely demand ischemia and concern for
   acute blood loss. Cardiolgy evaluated pt and felt it was likely demand
   related and should not prervent her GI workup.
   - fasting lipids for risk reduction
   - will start perioperative BB low dose, will up titirate
   - holding home verapamil for now (was 120mg TID)
   - will start statin
   Hypernatremia: Free water deficit ~ 1L. Sodium stable at 146. Likely
   secondary to dehydration.
   - monitor Na, [**Hospital1 **]
   - continue IVFs
   Constipation: Likely source of decreased PO and anorexia. Had guaiac
   positive dark brown stool yesterday
   - aggressive bowel regimen
   Glaucoma: continue travaprost
   FEN: PRBCS, replete electrolytes PRN, started on clears
   PPX: pneumoboots- hold lovenox; bowel regimen
   ACCESS: 2 PIVs (18g and 20g)
   CONTACT: [**Name (NI) **], [**Name (NI) 8190**] (HCP) cell: [**Telephone/Fax (1) 8191**]
   CODE: DNR/DNI
   DIPSO: ICU For now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-4**] 03:30 AM
   20 Gauge - [**2121-9-4**] 03:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2121-09-06 11:11:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, anemia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Difficulty coping SWC called. pancultured yesterday. Afebriel last 24h,
   Speech and swallow consult called due to concern for aspiration by RN.
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-5**] 08:41 PM
   Cefipime - [**2121-9-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-6**] 08:13 AM
   Pantoprazole (Protonix) - [**2121-9-6**] 08:14 AM
   Other medications:
   Advair, heparin s/c, levofloxacin, protonix, solumedrol 20 [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-6**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 88 (81 - 105) bpm
   BP: 143/76(91) {107/53(68) - 144/76(91)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,789 mL
                                                                  1,011 mL
   PO:
                                                                    360 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,429 mL
                                                                    831 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    410 mL
   Urine:
                                                                    945 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    844 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 4L
   SpO2: 94 %
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), ii/VI ejection murmur at
   RLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, oriented to place and
   time.
   Labs / Radiology
   8.5 g/dL
   533 K/uL
   92 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   16 mg/dL
   111 mEq/L
   146 mEq/L
   27.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2121-9-4**]  10:29 AM
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
                             [**2121-9-5**]  03:25 PM
                             [**2121-9-5**]  11:08 PM
                             [**2121-9-6**]  04:23 AM
   WBC
   10.7
   11.0
   10.1
   10.3
   10.3
   Hct
   25.5
   25.1
   28.8
   28.5
   30.1
   27.3
   27.0
   Plt
   [**Telephone/Fax (3) 8217**]51
   533
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   TropT
   0.10
   0.11
   Glucose
   133
   136
   103
   109
   92
   Other labs: PT / PTT / INR:13.6/28.9/1.2, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:15/20, Alk Phos / T Bili:102/0.6,
   Fibrinogen:688 mg/dL, LDH:325 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Microbiology: Urine E.coli >100,000
   Blood culures NGTD
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN): UTI +/-
   pneumonia
   resolved on Vano/cefepime, d/c levofloxacin, attempt to obtain sputum
   culture if she can produce some.
 ANEMIA, OTHER:
   hct stable, follow daily levels, EGD/[**Last Name (un) **] with resp status improves
 DYSPNEA (SHORTNESS OF BREATH): volume overload + /- pneumonia +/-
   COPD exacerbation:
   diurese -1L today, continue broad spectrum antibiotics for HAP x 8days,
   continue solumdedrol x 3 days then stop, continue inhalers and nebs
 Cardiac: likely recent MI, with borderline EF, titrate up bblocker
Dysphagia: change diet to dysphagia diet, await speech and swallow
   evaluation
 Mobility: appreciate PT consult.
   ICU Care
   Nutrition:
   Comments: dysphagia diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-9-4**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: aspiration precautions.
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2121-09-07 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Did not respond to lasix 10mg IV . Gave second dose
   of 20mg lasix IV with good response
   - Increased beta blocker
   - Seen by SW for support
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2121-9-6**] 04:12 PM
   Vancomycin - [**2121-9-6**] 08:08 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-6**] 08:14 AM
   Furosemide (Lasix) - [**2121-9-6**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2121-9-6**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-7**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 59 (59 - 107) bpm
   BP: 136/61(77) {109/54(69) - 150/83(92)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,638 mL
                                                                     78 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,098 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    220 mL
   Urine:
                                                                  1,755 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                   -143 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   457 K/uL
   9.0 g/dL
   115 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   109 mEq/L
   143 mEq/L
   28.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2121-9-4**]  10:29 AM
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
                             [**2121-9-5**]  03:25 PM
                             [**2121-9-5**]  11:08 PM
                             [**2121-9-6**]  04:23 AM
                             [**2121-9-6**]  03:54 PM
                             [**2121-9-6**]  10:51 PM
                             [**2121-9-7**]  05:18 AM
   WBC
   10.7
   11.0
   10.1
   10.3
   10.3
   8.5
   Hct
   25.5
   25.1
   28.8
   28.5
   30.1
   27.3
   27.0
   28.5
   28.8
   Plt
   [**Telephone/Fax (2) 8241**]
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.5
   0.4
   0.3
   TropT
   0.10
   0.11
   Glucose
   133
   136
   103
   109
   92
   169
   115
   Other labs: PT / PTT / INR:13.0/29.1/1.1, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:15/20, Alk Phos / T Bili:102/0.6,
   Fibrinogen:688 mg/dL, LDH:325 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
[**2121-9-4**] 1:45 am URINE     Site: NOT SPECIFIED
                            **FINAL REPORT [**2121-9-6**]**
   URINE CULTURE (Final [**2121-9-6**]):
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ESCHERICHIA COLI
                             |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------    16 I
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN----------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     4 S
TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
 DEPRESSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DYSPNEA (SHORTNESS OF BREATH)
   A/P: 85 yo W with PMH of HTN, COPD, thrombocytosis presents with SOB,
   fever, UTI and anemia.
   PNA/COPD: seen on CXR in the retrocardiac area. Worse resp status since
   transfusions.  No fevers overnight and no elevation in WBC count.
   - continue vanco and cefepime for HAP
   - Incentive spirometry
   - Q4H standing nebs
   - Q2H PRN  nebs
   - mucinex
   - solumedrol 20mg Q8H for 3 days (today is last day)
   - PRN lasix with transfusions (responds to 20mg IV)
   Macrocytic anemia/ GI bleed: HCT with appropriate bump to transfusion.
   Retic index with appropriate bone marrow response for low HCT.  B12,
   folate normal. GI consulted, recommended cards clearance prior to
   scope. Cards felt pt able to tolerate procedure. Received total of 3U
   PRBCs so far. However, resp status too unstable for EGD for now. No
   dark stools/melena.  HCTs stable overnight
   - monitor [**Hospital1 **] HCT
   - active type and sceen
   - 2 large bore IVs
   - follow up GI recs
   - IV PPI [**Hospital1 **]
   - Await EGD until resp status is more stable
   - holding outpt iron supplementation
   Urinary tract infection: + UA with + nitrites/LE. No urine culture
   prior to abx. Urine cx sent growing E. coli No evidence of obstruction
   on wet read of CT.
   - abx for PNA will also cover UTI
   - f/u urine cultures
   - monitor fever curve and wbc count
   Thrombocytosis: Known process. Currently on treatment with hydroxyurea
   - monitor plt count, if less than 600 can hold hydroxyurea
   Cardiac: + Tn. TW inversion in precordial leads x 3 EKGs, no prior to
   compare. However changes not dynamic, no evolution and w/o chest pain
   on exam. [**Month (only) 11**] have had prior event in setting of procedure or blood
   loss. No heparinization given likely demand ischemia and concern for
   acute blood loss. Cardiolgy evaluated pt and felt it was likely demand
   related and should not prervent her GI workup.
   - fasting lipids for risk reduction
   - on perioperative BB low dose, will up titirate if needed
   - holding home verapamil for now (was 120mg TID)
   - on statin
   Hypernatremia: Free water deficit ~ 1L. Likely secondary to
   dehydration. Now improved.
   - monitor Na, [**Hospital1 **]
   - continue IVFs
   Constipation: Likely source of decreased PO and anorexia. Had guaiac
   positive dark brown stool yesterday
   - aggressive bowel regimen
   Glaucoma: continue travaprost
   FEN: PRBCS, replete electrolytes PRN, started on clears
   PPX: pneumoboots- hold lovenox; bowel regimen
   ACCESS: 2 PIVs (18g and 20g)
   CONTACT: [**Name (NI) **], [**Name (NI) 8190**] (HCP) cell: [**Telephone/Fax (1) 8191**]
   CODE: DNR/DNI
   DIPSO: ICU For now
   ICU Care
   Nutrition: dysphagic diet, awaiting swallow consult, also on thickened
   liquids
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-6**] 03:23 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU this AM, consider call out later today if resp status
   stable

2121-09-07 10:09:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: acute anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78yo F with acute anemia fo unclear source, (+) Tn, COPD c/b pneumonia
   now being diuresed.
   24 Hour Events:
   EVENTS: diuresed overnight with IV lasix
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2121-9-6**] 04:12 PM
   Vancomycin - [**2121-9-6**] 08:08 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-9-6**] 04:11 PM
   Pantoprazole (Protonix) - [**2121-9-7**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2121-9-7**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Pain: [**12-27**] Minimal
   Pain location: L flank
   Flowsheet Data as of  [**2121-9-7**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 69 (59 - 107) bpm
   BP: 148/68(89) {109/54(69) - 150/83(92)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,638 mL
                                                                    108 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,098 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    300 mL
   Urine:
                                                                  1,755 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                   -192 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin, alert
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally, Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person/place/time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   457 K/uL
   115 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   109 mEq/L
   143 mEq/L
   28.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2121-9-4**]  10:29 AM
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
                             [**2121-9-5**]  03:25 PM
                             [**2121-9-5**]  11:08 PM
                             [**2121-9-6**]  04:23 AM
                             [**2121-9-6**]  03:54 PM
                             [**2121-9-6**]  10:51 PM
                             [**2121-9-7**]  05:18 AM
   WBC
   10.7
   11.0
   10.1
   10.3
   10.3
   8.5
   Hct
   25.5
   25.1
   28.8
   28.5
   30.1
   27.3
   27.0
   28.5
   28.8
   Plt
   [**Telephone/Fax (2) 8241**]
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.5
   0.4
   0.3
   TropT
   0.10
   0.11
   Glucose
   133
   136
   103
   109
   92
   169
   115
   Other labs: PT / PTT / INR:13.0/29.1/1.1, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:15/20, Alk Phos / T Bili:102/0.6,
   Fibrinogen:688 mg/dL, LDH:325 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
   - crit now stable s/p transfusion
   - active type and cross
 DYSPNEA (SHORTNESS OF BREATH)
   - standing nebs
   - vanc/cefepime day [**3-2**]
   - finishing steroids today
   - diurese to -500 to 1L
   - continue chest PT
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   - guaiac (+), unclear if cause of anemia
   - due for EGD when respiratory status improved
   - PO PPI today from IV
CONSTIPATION
   - improved with enema
   - continue PO bowel regimen and prn suppositories
   - being covered with vanc/cefepime
   - try to get Foley out soon
(+) Tn
   - on beta-blocker, statin
   - will ask GI re: 81mg ASA today
ADNEXAL MASS
   - for outpatient f/u
   ICU Care
   Nutrition:
   Comments: dysphagia diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-6**] 03:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2121-09-08 07:23:00 Physician Resident Progress Note
Chief Complaint: Acute blood loss anemia, hypoxia, lethargy
   24 Hour Events:
   - used IS most of the day
   - changed PPI to PO
   - started ASA 81mg
   - stopped steriods at end of day
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-7**] 08:18 PM
   Cefipime - [**2121-9-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-7**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2121-9-7**] 10:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 63 (55 - 91) bpm
   BP: 130/57(74) {100/44(61) - 148/69(89)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,670 mL
                                                                     50 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    470 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    165 mL
   Urine:
                                                                    670 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                   -115 mL
   Respiratory support
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   8.0 g/dL
   85 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   15 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
                             [**2121-9-5**]  03:25 PM
                             [**2121-9-5**]  11:08 PM
                             [**2121-9-6**]  04:23 AM
                             [**2121-9-6**]  03:54 PM
                             [**2121-9-6**]  10:51 PM
                             [**2121-9-7**]  05:18 AM
                             [**2121-9-8**]  04:12 AM
   WBC
   11.0
   10.1
   10.3
   10.3
   8.5
   9.1
   Hct
   25.1
   28.8
   28.5
   30.1
   27.3
   27.0
   28.5
   28.8
   26.9
   Plt
   [**Telephone/Fax (3) **]33
   457
   382
   Cr
   0.5
   0.5
   0.4
   0.4
   0.5
   0.4
   0.3
   0.4
   TropT
   0.11
   Glucose
   136
   103
   109
   92
   169
   115
   85
   Other labs: PT / PTT / INR:13.0/29.1/1.1, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:15/20, Alk Phos / T Bili:102/0.6,
   Fibrinogen:688 mg/dL, LDH:325 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 85 yo W with PMH of HTN, COPD, thrombocytosis presents with SOB,
   fever, UTI and anemia.
   PNA/COPD: seen on CXR in the retrocardiac area. Worse resp status since
   transfusions.  No fevers overnight and no elevation in WBC count.
   - continue vanco and cefepime for HAP, 8 day course
   - Incentive spirometry
   - Q6H standing nebs
   - mucinex
   - solumedrol 20mg Q8H for 3 days (today is last day)
   - PRN lasix with transfusions (responds to 20mg IV), goal negative 500
   Macrocytic anemia/ GI bleed: HCT with appropriate bump to transfusion.
   Retic index with appropriate bone marrow response for low HCT.  B12,
   folate normal. GI consulted, recommended cards clearance prior to
   scope. Cards felt pt able to tolerate procedure. Received total of 3U
   PRBCs so far. However, resp status too unstable for EGD for now. No
   dark stools/melena.  HCTs stable overnight
   - monitor [**Hospital1 **] daily
   - active type and sceen
   - follow up GI recs
   - PPI PO daily
   - Await EGD until resp status is more stable
   - holding outpt iron supplementation
   Urinary tract infection: + UA with + nitrites/LE. No urine culture
   prior to abx. Urine cx sent growing E. coli No evidence of obstruction
   on wet read of CT.
   - abx for PNA will also cover UTI
   - f/u urine cultures
   - monitor fever curve and wbc count
   Thrombocytosis: Known process. Currently on treatment with hydroxyurea
   - monitor plt count, if less than 600 can hold hydroxyurea
   Cardiac: + Tn. TW inversion in precordial leads x 3 EKGs, no prior to
   compare. However changes not dynamic, no evolution and w/o chest pain
   on exam. [**Month (only) 11**] have had prior event in setting of procedure or blood
   loss. No heparinization given likely demand ischemia and concern for
   acute blood loss. Cardiolgy evaluated pt and felt it was likely demand
   related and should not prervent her GI workup.
   - fasting lipids for risk reduction
   - on perioperative BB low dose, will up titirate if needed
   - holding home verapamil for now (was 120mg TID)
   - on statin
   - consider ASA 81mg based on GI approval
   Hypernatremia: Free water deficit ~ 1L. Likely secondary to
   dehydration. Now improved.
   - monitor Na, daily
   - continue IVFs
   Constipation: Likely source of decreased PO and anorexia. Had guaiac
   positive dark brown stool yesterday, good response to enema
   - aggressive bowel regimen
   Glaucoma: continue travaprost
   FEN: PRBCS, replete electrolytes PRN, started on clears
   ACCESS: 1 PIVs (18g)
   CONTACT: [**Name (NI) **], [**Name (NI) 8190**] (HCP) cell: [**Telephone/Fax (1) 8191**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-6**] 03:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:Transfer to floor

2121-09-08 11:20:00 Physician Attending Progress Note
Chief Complaint: Anemia, pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Continues to use incentive spirometer. Stable respiratory status.
   Hematocrt stable.
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-7**] 08:18 PM
   Cefipime - [**2121-9-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-7**] 10:19 PM
   Other medications:
   advair, senna, heparin tid, simvastatin, guiafenesin, cefepime, vanco,
   lopressor, albuterol, atrovent, lansoprazole, asa 81,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-8**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 69 (55 - 91) bpm
   BP: 126/52(70) {100/44(61) - 134/61(75)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,670 mL
                                                                    170 mL
   PO:
                                                                  1,200 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    470 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    670 mL
                                                                    285 mL
   Urine:
                                                                    670 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                   -115 mL
   Respiratory support
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughtout)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   382 K/uL
   85 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   15 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2121-9-4**]  03:09 PM
                             [**2121-9-4**]  08:38 PM
                             [**2121-9-5**]  04:44 AM
                             [**2121-9-5**]  03:25 PM
                             [**2121-9-5**]  11:08 PM
                             [**2121-9-6**]  04:23 AM
                             [**2121-9-6**]  03:54 PM
                             [**2121-9-6**]  10:51 PM
                             [**2121-9-7**]  05:18 AM
                             [**2121-9-8**]  04:12 AM
   WBC
   11.0
   10.1
   10.3
   10.3
   8.5
   9.1
   Hct
   25.1
   28.8
   28.5
   30.1
   27.3
   27.0
   28.5
   28.8
   26.9
   Plt
   [**Telephone/Fax (3) **]33
   457
   382
   Cr
   0.5
   0.5
   0.4
   0.4
   0.5
   0.4
   0.3
   0.4
   TropT
   0.11
   Glucose
   136
   103
   109
   92
   169
   115
   85
   Other labs: PT / PTT / INR:13.0/29.1/1.1, CK / CKMB /
   Troponin-T:36//0.11, ALT / AST:15/20, Alk Phos / T Bili:102/0.6,
   Fibrinogen:688 mg/dL, LDH:325 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Microbiology: blood cultures pending
   MRSA screen pending
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   resolved on vanco/cefepime for hospital acquired pneumonia and UTI.
   blood culture negative.
 ANEMIA, OTHER:
   stable hct, needs EGD/[**Last Name (un) **] when stable from respiratory standpoint
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   monitor stool guiac
 DYSPNEA (SHORTNESS OF BREATH):
   pneumonia LL. keep TBB even, no evidence of volume overload currently.
   s/p brief course of steroids for / superimposed COPD exacerbation.
   continue antibiotics. Ask RT to provide with flutter valve, contineu
   Chest PT, incentive spirometry. Physical therapy to ambulate.
   ICU Care
   Nutrition:
   Comments: dysphagia diet, SS conult pending.
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-9-6**] 03:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2121-9-8**] 15:03 ------